US08476297B2
To a solution of 1-(1H-indol-3-yl)-1,2,3,4-tetrahydroisoquinoline (16.3 mg, 66 μmol) in CH2Cl2 (0.5 mL) at RT was added 1-fluoro-4-isocyanatobenzene (10 μL, 66 μmol). The reaction was stirred 48 h, the suspension dissolved in DMF and purified by HPLC to give N-(4-fluorophenyl)-1-(1H-indol-3-yl)-3,4-dihydroisoquinoline-2(1H)-carboxamide as a white solid. MS (ESI pos. ion) m/z: 386 (M+1).

reactant | 1-(1H-indol-3-yl)-1,2,3,4-tetrahydroisoquinoline | 66 μmol, 16.3 mg | N1C=C(C2=CC=CC=C12)C1NCCC2=CC=CC=C12 | C17H16N2
reactant | 1-fluoro-4-isocyanatobenzene | 66 μmol, 10 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-fluorophenyl)-1-(1H-indol-3-yl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | FC1=CC=C(C=C1)NC(=O)N1C(C2=CC=CC=C2CC1)C1=CNC2=CC=CC=C12 | C24H20FN3O
